US05981537
Preparation of 4amino-6-chloro-2-thio-pyrimidine (Cpd #110)
4-amino-6-chloro-2-(4-methoxyphenylmethylthio)-pyrimidine (11.0 g, 39.15 mmol: Cpd #93) and trifluoroacetic acid (84 ml) are heated to reflux for 20 hours, then the excess solvent is removed in vacuo. The sample is triturated with chloroform then stirred with ether and filtered. The solid is washed with ether then air dried, mp >320° C.

reactant | 4-amino-6-chloro-2-(4-methoxyphenylmethylthio)-pyrimidine | 39.15 mmol, 11.0 g | NC1=NC(=NC(=C1)Cl)SCC1=CC=C(C=C1)OC | C12H12ClN3OS
reactant | trifluoroacetic acid | 84 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4amino-6-chloro-2-thio-pyrimidine | C1=C(NC(=S)N=C1N)Cl | C4H4ClN3S
